### PR TITLE
feat: improve `fin_cases` names

### PR DESCRIPTION
**Pull request by roos-j**
Cases generated by `fin_cases` are now named according to the order in which they are generated.
For example consider:
```lean
import Mathlib.Tactic

example (x y:Fin 3): (x:ℝ)+y < 10 := by
  fin_cases x, y <;> norm_num
``` 
Previously, the case corresponding where `x=1, y=2` would have been displayed as `case tail.head.tail.tail.head`,
where it is now displayed as `case 1.2`

If `fin_cases` is used to replace a goal with an existing name, the existing name will appear in the beginning, for example `goalname.1.2` etc.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/FinCases.lean [hunk 1]
```diff
@@ -117,7 +122,8 @@ produces three goals with hypotheses
 
 /- TODO: In mathlib3 we ran `norm_num` when there is no `with` clause. Is this still useful? -/
 /- TODO: can we name the cases generated according to their values,
-   rather than `tail.tail.tail.head`? -/
+   rather than `tail.tail.tail.head`?
+   Update: now generates more helpful case names such as `0.2.1` -/
```
Comment (jcommelin) [inline Mathlib/Tactic/FinCases.lean:126]: I think you can now remove the TODO altogether, right? But maybe document the new naming behaviour in a comment somewhere.

Comment (roos-j) [reply Mathlib/Tactic/FinCases.lean]: Thanks, changed.

File: Mathlib/Tactic/FinCases.lean [hunk 2]
```diff
@@ -42,20 +42,27 @@ and we return a list of the first goals which appeared.
...
+and prefixed with `userNamePre`.
 -/
-partial def unfoldCases (g : MVarId) (h : FVarId) : MetaM (List MVarId) := do
+partial def unfoldCases (g : MVarId) (h : FVarId)
+    (userNamePre : Name := .anonymous) (counter := 0) : MetaM (List MVarId) := do
   let gs ← g.cases h
   try
     let #[g₁, g₂] := gs | throwError "unexpected number of cases"
-    let gs ← unfoldCases g₂.mvarId g₂.fields[2]!.fvarId!
+    modifyMCtx <| fun m => m.setMVarUserName g₁.mvarId <| .num userNamePre counter
```
Comment (kmill) [inline Mathlib/Tactic/FinCases.lean:53]: Untested, but I expect this to work:
```suggestion
    g₁.mvarId.setUserName (.num userNamePre counter)
```

File: Mathlib/Tactic/FinCases.lean [hunk 3]
```diff
@@ -116,8 +123,6 @@ produces three goals with hypotheses
 -/
 
 /- TODO: In mathlib3 we ran `norm_num` when there is no `with` clause. Is this still useful? -/
-/- TODO: can we name the cases generated according to their values,
-   rather than `tail.tail.tail.head`? -/
```
Comment (kmill) [inline Mathlib/Tactic/FinCases.lean:126]: Could you add a test showing that the cases are named? You could use something like `#guard_msgs in example ... some setup ... fin_cases ... trace_state`.

Comment (roos-j) [reply Mathlib/Tactic/FinCases.lean:126]: Like this?
```lean
/--
info: case 0.0
⊢ True

case 0.1
⊢ True

case 1.0
⊢ True

case 1.1
⊢ True
-/
#guard_msgs in
example (x y:Fin 2): True := by
  fin_cases x, y
  trace_state
  all_goals simp
```

Comment (kmill) [reply Mathlib/Tactic/FinCases.lean:126]: Yes, exactly.

Can you check whether you can select these cases by name too? Like `case 0.0 => ...`? If not, we should use `Name.str` instead of `Name.num`. The `Name.num` is for internal names, so I suspect this case selection won't work.

Comment (roos-j) [reply Mathlib/Tactic/FinCases.lean:126]: Good point. Changed to `.str`, so that case names now appear as `case «0».«1»` and `case «0».«1» => ...` works

**Comment by roos-j** [comment]
Messed up with git, need to do submit this again
